US04362728
m-Aminobenzyl alcohol (0.123 g.) and 2,2,2-trifluoroethylisothiocyanate (0.141 g.) were heated under reflux in acetone (5 ml.) for 2 hours. Volatile material was evaporated in vacuo and the crude residue was fractionated on a silica gel column (20 cm.×1 cm. diameter) eluted with ethyl acetate to give 1-(3-hydroxymethylphenyl)-3-(2,2,2-trifluoroethyl)thiourea. The n.m.r. spectrum in CDCl3 using tetramethylsilane as internal standard (δ=0) had the following resonances (δ):-7.2 (4H, multiplet); 4.6 (2H, singlet); 4.3 (2H, multiplet).

reactant | m-Aminobenzyl alcohol | 0.123 g | NC=1C=C(CO)C=CC1 | C7H9NO
reactant | 2,2,2-trifluoroethylisothiocyanate | 0.141 g | FC(CN=C=S)(F)F | C3H2F3NS
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 1-(3-hydroxymethylphenyl)-3-(2,2,2-trifluoroethyl)thiourea | OCC=1C=C(C=CC1)NC(=S)NCC(F)(F)F | C10H11F3N2OS
